US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(2-methylallylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate
A solution of 50 mg mitomycin A (0.138 mmol) in 8 ml. of anhydrous methanol was stirred with 29 mg of 2-methylallylamine. The progress of the reaction was periodically checked by TLC and, after 2 hours, the solvent was removed by evaporation under reduced pressure and the residue was purified by column chromatography using silica-gel as adsorbent and ethyl acetate as the eluant. Recrystallization from a mixture of chloroform and hexane gave 30 mg (55% yield) of the desired product as purple crystals having a melting point of >250° C. (decomposing) and providing the following analysis:

reactant | mitomycin A | 0.138 mmol, 50 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | 2-methylallylamine | 29 mg | CC(CN)=C | C4H9N
solvent | methanol | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(2-methylallylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 30 mg, 55% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCC(=C)C)C)=O)CC1C2N1)OC | InChI=1S/C18H23N3O4.CH3NO2/c1-8(2)5-19-13-9(3)15(23)14-12(16(13)24)10(7-22)18(25-4)17-11(20-17)6-21(14)18;2-1(3)4/h10-11,17,19-20,22H,1,5-7H2,2-4H3;2H2,(H,3,4)
